US06297233B1
To a solution of 2-methyl-3,5-dinitrobenzofuran (4.4 g, 19.8 mmol) in ethyl acetate (250 mL) was added stannous chloride (dihydrate, 8.99 g, 39.8 mmol). The mixture was stirred at room temperature for 70 hours. Water (100 mL) and 1N NaOH (100 mL) were added. The mixture was extracted with ethyl acetate (4×150 mL). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo and the residue was chromatographed (silica, 20-30% ethyl acetate in hexanes) to give 2-methyl-3-nitro-5-benzofuranamine as a yellow solid (1.71 g, 45%): 1H-NMR (270 MHz, CDCl3) δ 7.38 (d, 1H, J=2.8 Hz), 7.25 (d, 1H, J=8.8 Hz), 6.72 (dd, 1H, J=8.8, 2.8 Hz), 2.87 (s, 3H); HPLC (Method A) tR=1.36 min.

reactant | 2-methyl-3,5-dinitrobenzofuran | 19.8 mmol, 4.4 g | CC=1OC2=C(C1[N+](=O)[O-])C=C(C=C2)[N+](=O)[O-] | C9H6N2O5
reactant | Water | 100 mL | O | H2O
reactant | NaOH | 1N, 100 mL | [OH-].[Na+]
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-3-nitro-5-benzofuranamine | 1.71 g, 45% | CC=1OC2=C(C1[N+](=O)[O-])C=C(C=C2)N | C9H8N2O3
